US07417009B2
Isopar (10 g), eicosanyl acrylate (15 g), and lauryl methacrylate (3 g) are charged to a reactor equipped with a stirrer, a heater, a thermometer, an addition funnel containing a solution of maleic anhydride (3 g) in toluene (5 g), and a nitrogen-bubbling duct. The reactor is flushed with nitrogen gas and sealed. The reactor is heated to 85° C. and tert-butyl peroxibenzoate (0.2 g) is added. The reaction mixture is heated in the closed system at 85° C. for three hours, and tert-butyl peroxibenzoate (0.2 g) is charged two more times. Then the reaction is heated at 100° C. for one hour and at 125° C. for one hour to provide eicosanyl acrylate/lauryl methacrylate/maleic anhydride polymer having a number average molecular weight of 20,659 Daltons with polydispersity 1.8. The viscosity of the polymer is 110 cP at 20° C. as a 40% solution in toluene.

reactant | eicosanyl acrylate | 15 g | C(C=C)(=O)OCCCCCCCCCCCCCCCCCCCC | C23H44O2
reactant | lauryl methacrylate | 3 g | C(C(=C)C)(=O)OCCCCCCCCCCCC | C16H30O2
reactant | maleic anhydride | 3 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | toluene | 5 g | C1(=CC=CC=C1)C | C7H8
product | eicosanyl acrylate lauryl methacrylate maleic anhydride | C(C=C)(=O)OCCCCCCCCCCCCCCCCCCCC.C(C(=C)C)(=O)OCCCCCCCCCCCC.C1(\C=C/C(=O)O1)=O | InChI=1S/C23H44O2.C16H30O2.C4H2O3/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-25-23(24)4-2;1-4-5-6-7-8-9-10-11-12-13-14-18-16(17)15(2)3;5-3-1-2-4(6)7-3/h4H,2-3,5-22H2,1H3;2,4-14H2,1,3H3;1-2H
